US08383643B2
Ethyl [5-(5-bromo-1,3,4-thiadiazol-2-yl)-2H-tetrazol-2-yl]acetate
5-Bromo-1,3,4-thiadiazole-2-carboxamide To a solution of ethyl 5-bromo-1,3,4-thiadiazole-2-carboxylate in THF (1.1 M) at room temperature was added concentrated NH4OH (2.9 equiv). The mixture was stirred at room temperature overnight and a precipitate appeared in the aqueous layer. Then the volatile solvent was removed in vacuo. The resulting mixture was diluted with water and the precipitate was collected, washed with water and dried under vacuum to give the title compound.

reactant | 5-Bromo-1,3,4-thiadiazole-2-carboxamide | BrC1=NN=C(S1)C(=O)N | C3H2BrN3OS
reactant | ethyl 5-bromo-1,3,4-thiadiazole-2-carboxylate | BrC1=NN=C(S1)C(=O)OCC | C5H5BrN2O2S
reactant | NH4OH | 2.9 equiv | [NH4+].[OH-]
solvent | THF | 1.1 M | C1CCOC1 | C4H8O
product | Ethyl [5-(5-bromo-1,3,4-thiadiazol-2-yl)-2H-tetrazol-2-yl]acetate | BrC1=NN=C(S1)C=1N=NN(N1)CC(=O)OCC | C7H7BrN6O2S
